US06207343B1
76.5 g (0.5 mols) of p-hydroxyphenylacetic acid was dissolved in 500 ml of tetrahydrofuran (THF). The resulting reaction solution was then cooled to a temperature of from −20° C. to −15° C. To the reaction solution was then added dropwise 231 g (1.1 mols) of trifluoroacetic anhydride. After the termination of dropwise addition, the reaction mixture was stirred at room temperature for 12 hours. The reaction solution was then again cooled to a temperature of from −20° C. to −15° C. To the reaction solution was then added dropwise 37 g (0.5 mols) of t-butanol. The reaction mixture was then stirred at room temperature for 3 hours. To the reaction solution was then added dropwise 100 ml of aqueous ammonia. The reaction mixture was then extracted with water to obtain t-butyl p-hydroxyphenylacetate.

reactant | p-hydroxyphenylacetic acid | 0.5 mols, 76.5 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | trifluoroacetic anhydride | 1.1 mols, 231 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | t-butanol | 0.5 mols, 37 g | C(C)(C)(C)O | C4H10O
reactant | ammonia | 100 ml | N | H3N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | t-butyl p-hydroxyphenylacetate | OC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C12H16O3
